US08623859B2
4-bromo-2-ethyl-N-methyl-N-[(4-{[4-(3-pyrrolidin-1-ylpropyl)-1,4-diazepan-1-yl]carbonyl}furan-2-yl)methyl]benzenesulfonamide
The title compound was prepared according to general procedure AA using 5-({[(4-bromo-2-ethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (50 mg, 0.12 mmol), CDI (41 mg, 0.25 mmol) and 1-[3-(pyrrolidin-1-yl)propyl]-1,4-diazepane (53 mg, 0.25 mmol) in DCE (2 mL). The crude product was purified using prep method A.

reactant | 5-({[(4-bromo-2-ethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.12 mmol, 50 mg | BrC1=CC(=C(C=C1)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)CC | C15H16BrNO5S
reactant | CDI | 0.25 mmol, 41 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-[3-(pyrrolidin-1-yl)propyl]-1,4-diazepane | 0.25 mmol, 53 mg | N1(CCCC1)CCCN1CCNCCC1 | C12H25N3
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
product | 4-bromo-2-ethyl-N-methyl-N-[(4-{[4-(3-pyrrolidin-1-ylpropyl)-1,4-diazepan-1-yl]carbonyl}furan-2-yl)methyl]benzenesulfonamide | BrC1=CC(=C(C=C1)S(=O)(=O)N(CC=1OC=C(C1)C(=O)N1CCN(CCC1)CCCN1CCCC1)C)CC | C27H39BrN4O4S
